US08703941B2
Excess hydrogen chloride gas was bubbled into a solution of tert-butyl N-(1-[6-ethylthieno[2,3-d]pyrimidin-4-yl]piperidin-4-yl)carbamate (1 g, 2.76 mmol, 1.00 equiv) in dichloromethane (20 mL). The resulting solution was stirred for 2 h at 0° C. in a water/ice bath. The resulting mixture was concentrated under vacuum to give 650 mg (70%) of 1-[6-ethylthieno[2,3-d]pyrimidin-4-yl]piperidin-4-amine dihydrochloride as a yellow solid. 1H NMR: (400 MHz, CDCl3) δ 8.61 (1H, s), 7.45 (1H, s), 5.70 (1H, s), 4.68-4.65 (2H, d), 3.43-3.37 (3H, t), 2.96-2.91 (2H, q), 2.16-2.13 (2H, d), 1.70-1.64 (2H, t), 1.29-1.26 (3H, t). MS: m/z 263 (M−2HCl+H)+.

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl N-(1-[6-ethylthieno[2,3-d]pyrimidin-4-yl]piperidin-4-yl)carbamate | 2.76 mmol, 1 g, 1.00 equiv | C(C)C1=CC2=C(N=CN=C2N2CCC(CC2)NC(OC(C)(C)C)=O)S1 | C18H26N4O2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-[6-ethylthieno[2,3-d]pyrimidin-4-yl]piperidin-4-amine dihydrochloride | 650 mg, 70% | Cl.Cl.C(C)C1=CC2=C(N=CN=C2N2CCC(CC2)N)S1 | InChI=1S/C13H18N4S.2ClH/c1-2-10-7-11-12(15-8-16-13(11)18-10)17-5-3-9(14)4-6-17;;/h7-9H,2-6,14H2,1H3;2*1H
